US09371320B2
A) 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetamide
To a solution of (4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetic acid (500 mg) and HOBt ammonium salt (435 mg) in DMF (5 mL) was added EDCI hydrochloride (539 mg), and the mixture was stirred at room temperature for 3 hr. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound (420 mg).

reactant | (4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetic acid | 500 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CC(=O)O)C | C14H19BO4
reactant | EDCI hydrochloride | 539 mg | CCN=C=NCCCN(C)C.Cl
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetamide | 420 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CC(=O)N)C | C14H20BNO3
